US04160094
2-t-Butyl-5,6,7,8-tetrahydroquinoline (18.9 g., 0.1 m).
was treated with phenyl lithium (0.1 m.) by the general method described in Example 1 to obtain 2-t-butyl[8-Lithio]-5,6,7,8-tetrahydroquinoline which was treated in situ with CO2 and the product converted to methyl-2-t-butyl-5,6,7,8-tetrahydroquinoline-8-carboxylate by refluxing in methanol saturated with dry HCl gas as described in our copending U.S. Ser. No. 460265.

reactant | CO2 | C(=O)=O | CO2
reactant | methyl-2-t-butyl-5,6,7,8-tetrahydroquinoline-8-carboxylate | COC(=O)C1CCCC=2C=CC(=NC12)C(C)(C)C | C15H21NO2
reactant | HCl | Cl | ClH
solvent | methanol | CO | CH4O
product | 2-t-Butyl-5,6,7,8-tetrahydroquinoline | C(C)(C)(C)C1=NC=2CCCCC2C=C1 | C13H19N
